US08124649B2
Synthesis of 3-((5-(3-(4H-1,2,4-triazol-3-yl)phenyl)furan-2-yl)methylene)-5-chloroindolin-2-one
3-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzamide (100 mg, 0.275 mmol) in 5 mL DMF/DMA was stirred at 80° C. during 2 hr. DMF was evaporated and AcOH (10 mL) added. Hydrazine (1 mL) was added dropwise, the mixture was stirred during 10 minutes at R.T., then 45 minutes at 80° C. Water was added and the solid formed isolated by filtration and dried under vacuum. The product was purified by preparative TLC (DCM/MeOH 1%). LCMS (M+1)=389.

reactant | 3-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzamide | 0.275 mmol, 100 mg | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=C(O1)C=1C=C(C(=O)N)C=CC1 | C20H13ClN2O3
reactant | DMF DMA | 5 mL | CN(C)C=O.CC(=O)N(C)C
product | 3-((5-(3-(4H-1,2,4-triazol-3-yl)phenyl)furan-2-yl)methylene)-5-chloroindolin-2-one | N=1N=C(NC1)C=1C=C(C=CC1)C1=CC=C(O1)C=C1C(NC2=CC=C(C=C12)Cl)=O | C21H13ClN4O2
